US08461134B2
To the solution of 3-aminophenylacetic acid (10 g, 66 mmol) and trifluoroacetic anhydride (9.2 ml, 66 ml) in DCM (200 ml) at 0° C., added triethyl amine (27 ml, 0.2 mol) slowly. The temperature was raised to room temperature after addition. The reaction was worked up 2 hours later, quenched with 1N HCl, washed with water and brine, and dried over anhydrous sodium sulfate. Concentrated to get crude 2-(3-(2,2,2-trifluoroacetamido)phenyl)acetic acid as white solid. Used for next step without further purification.

reactant | 3-aminophenylacetic acid | 66 mmol, 10 g | NC=1C=C(C=CC1)CC(=O)O | C8H9NO2
reactant | trifluoroacetic anhydride | 9.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethyl amine | 0.2 mol, 27 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-(2,2,2-trifluoroacetamido)phenyl)acetic acid | FC(C(=O)NC=1C=C(C=CC1)CC(=O)O)(F)F | C10H8F3NO3
